US07750003B2
Tert-butyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate
(3S)-4-{2-Chloro-6-[1-methyl-1-(methylsulfonyl)ethyl]pyrimidin-4-yl}-3-methylmorpholine (1.75 g, 5.47 mmol) was dissolved in a solution of 18% DMF in a mixture of 7:3:2 dimethoxyethane:water:ethanol (18 mL). Tert-butyl [4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (2.62 g, 8.2 mmol), 2M sodium carbonate solution (8 mL) and dichlorobis(triphenylphosphine) palladium catalyst (192 mg, 0.27 mmol) were then added and the reaction refluxed at 90° C. for 2 hours under a nitrogen atmosphere. The reaction was allowed to cool to room temp then partitioned between ethyl acetate (20 mL) and water (20 mL). The organics were dried over magnesium sulphate, filtered and concentrated in vacuo. The crude solid was chromatographed on silica, eluting with 0-30% ethyl acetate in DCM to give the desired material as a white solid (2.6 g).

reactant | (3S)-4-{2-Chloro-6-[1-methyl-1-(methylsulfonyl)ethyl]pyrimidin-4-yl}-3-methylmorpholine | 5.47 mmol, 1.75 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(S(=O)(=O)C)C | C13H20ClN3O3S
reactant | water | O | H2O
reactant | Tert-butyl [4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 8.2 mmol, 2.62 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)C | C17H26BNO4
reactant | sodium carbonate | 2M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | Tert-butyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate | 2.6 g | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C23H32N4O5S
